US05654285
i) 2-Propoxy-adenosine
2-Chloro-adenosine (3.5 g) was added to a hot solution of NaOH (3.2 g) in n-propanol (80 ml), the mixture was heated under reflux for 3 hours. The volatiles were removed in vacuo, the residue taken into water (40 ml), cooled and acidified with 1M hydrochloric acid to pH 7. After 15 min the suspension was filtered and the filtrate evaporated. The residue was taken up in ethanol, and adsorbed onto silica which was placed on a chromatography column. Elution with 9:1, and then 4:1 CHCl3 afforded the sub-title compound (0.65 g).

reactant | 2-Chloro-adenosine | 3.5 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | NaOH | 3.2 g | [OH-].[Na+]
reactant | n-propanol | 80 ml | C(CC)O | C3H8O
product | 2-Propoxy-adenosine | 0.65 g | C(CC)OC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C13H19N5O5
